US09107415B2
To a solution of 2-(4-bromo-2,6-dimethylphenyl)-3-methoxycyclopent-2-enone (7.5 g, 26.0 mmol) in anhydrous tetrahydrofuran (70 ml) under a nitrogen atmosphere is added lithium bis(trimethylsilyl)amide (44.6 ml, 31.0 mmol, 0.7M in tetrahydrofuran) dropwise at −75°C. After stirring for 40 minutes at this temperature a second solution of tetrahydropyranyl-4-carboxaldehyde (5.90 g, 52.0 mmol) in tetrahydrofuran (70 ml) is added over 20 minutes, and the resulting solution is stirred at −75°C. for 2 hours. After warming to room temperature the mixture is stirred for a further 2 hours, then is quenched with ice cold water (100 ml) and extracted with ethyl acetate (3×150 ml). Organics are combined, dried over sodium sulphate, filtered and the filtrate is concentrated in vacuo to afford 2-(4-bromo-2,6-dimethylphenyl)-5-[hydroxy(tetrahydropyran-4-yl)methyl]-3-methoxycyclopent-2-enone. This material is used directly in the next step without further purification.

reactant | 2-(4-bromo-2,6-dimethylphenyl)-3-methoxycyclopent-2-enone | 26.0 mmol, 7.5 g | BrC1=CC(=C(C(=C1)C)C=1C(CCC1OC)=O)C | C14H15BrO2
reactant | lithium bis(trimethylsilyl)amide | 31.0 mmol, 0.7M, 44.6 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tetrahydropyranyl-4-carboxaldehyde | 52.0 mmol, 5.90 g | C1COCCC1C=O | C6H10O2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-(4-bromo-2,6-dimethylphenyl)-5-[hydroxy(tetrahydropyran-4-yl)methyl]-3-methoxycyclopent-2-enone | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)C(C1CCOCC1)O)=O)C | C20H25BrO4
